US04477450
Using the procedure of Example 1, Part B1, 18.5 g (0.14 mole) of propionamidine acetate and 90 ml of 25% sodium methoxide were reacted with dimethyl malonate (0.14 mole) to provide 16.5 g (89.5%) of 4,6-dihydroxy-2-ethylpyrimidine according to Step (1).

reactant | propionamidine acetate | 0.14 mole, 18.5 g | C(C)(=O)O.C(CC)(=N)N
reactant | dimethyl malonate | 0.14 mole | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | sodium methoxide | 90 ml | C[O-].[Na+]
product | 4,6-dihydroxy-2-ethylpyrimidine | 16.5 g, 89.5% | OC1=NC(=NC(=C1)O)CC | C6H8N2O2
